Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[H:10],-2.61397968686
[H:1][C:2]#[C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],1.84350722225
[H:1][O:2][C@:3]1([H:4])[C:5][C:6]([H:7])[C@@:8]1([H:9])[O:10][H:11]>>[H:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])[O:10][H:11],-0.1583387531099999
[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[C:5]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.35595308478
[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:2]([C:3]=[O:4])([H:5])([H:7])[H:8].[O:1]([C:6])[H:9],2.57965184648
[H:1][C:2]#[C:3]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-2.94384904854
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[O:7][H:8]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8],-5.91356273106
[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])[H:9],3.98794351864
[H:1][C:2][O:3]/[C:4]([H:5])=[C:7]/[O:8][C:9]([H:10])[H:11].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-2.67879576661
[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.58949524968
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.78082673232
[O:1]=[C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10]>>[C:5]=[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[C:4][O:9][H:10],6.068164660340001
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.42407642838
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1],2.73854423188
[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[H:1][O:2][C:3]#[C:4]/[C:6]([H:7])=[C:8]/[O:9][H:10].[H:5],2.38011040332
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:3],5.18171215052
[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.64023588
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]#[C:3][C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4],1.83995111718
[H:1][C:2](=[O:3])[O:7][C:4]([H:5])[H:6]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[O:7]1,1.03187110156
[H:1][O:2]/[C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:10](/[H:11])[C:12]([H:13])([H:14])[H:15].[H:9],2.28393075388
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.31333410966
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])[H:11],4.57939998295
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[O:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],2.23246393525
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][C:4][O:5][H:6]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.76491901414
[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:3][C:8]([H:9])([H:10])[C:11]([C:2][C:4]([H:5])([H:6])[H:7])([H:12])[H:13],6.52590233
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][O:5][C:6](=[C:7][H:8])[O:9][H:10].[H:4],2.25206484612
[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-3.806803909080002
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.31664347506
